US07632829B2
(rac)-1-Benzyl-3-methyl-piperidin-4-ol
Benzyl-3- methyl-piperidin-4-one (2.0 g, 10 mmol) was dissolved in MeOH (10 ml), cooled to 0° C. and sodium borohydride (0.2 g, 5 mmol) was added portionwise. The reaction was allowed to reach room temperature and stirred overnight after which time the solvent was removed under vacuum, the residue redissolved in CH2Cl2, washed with water, dried (Na2SO4) and concentrated to afford the title compound (2.1 g, quant), a 3:1 mixture of diasteriomers (trans:cis) as gum. MS: 206.2 (MH+).

reactant | Benzyl-3- methyl-piperidin-4-one | 10 mmol, 2.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | sodium borohydride | 5 mmol, 0.2 g | [BH4-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | (rac)-1-Benzyl-3-methyl-piperidin-4-ol | 2.1 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)C | C13H19NO
